US07795267B2
Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one
To a solution of hexahydro-1,1-diphenyl-7-(phenylmethyl)-3H-oxazolo[3,4-a]pyrazin-3-one (19 g, 48 mmol) in 1,2-dichloroethane (80 mL) was added 1-chloroethyl chloroformate (8.7 g, 61 mmol), and the mixture was stirred at 60° C. for 3 hours. 1-Chloroethyl chloroformate (1.7 g, 12 mmol) was further added thereto, and the resulting mixture was stirred at 60° C. for 2 hours. The reaction solution was concentrated under reduced pressure and methanol was added thereto, and the mixture was heated under reflux for 2.5 hours. The reaction solution was concentrated under reduced pressure, and crystallized by adding ethyl acetate and hexane. The precipitated crystals were collected by filtration. The crystals were dissolved by adding ethyl acetate and an aqueous saturated sodium hydrogen carbonate solution. Then, the organic layer was washed with water and concentrated under reduced pressure. To the residue was added diisopropyl ether, and the precipitated crystals were washed with diisopropyl ether and dried to obtain the title compound (13 g, yield 92%). 1H NMR of the above obtained compound corresponded with the compound obtained in Reference Example 2.

reactant | hexahydro-1,1-diphenyl-7-(phenylmethyl)-3H-oxazolo[3,4-a]pyrazin-3-one | 48 mmol, 19 g | C1(=CC=CC=C1)C1(OC(N2C1CN(CC2)CC2=CC=CC=C2)=O)C2=CC=CC=C2 | C25H24N2O2
reactant | 1-chloroethyl chloroformate | 61 mmol, 8.7 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1-Chloroethyl chloroformate | 12 mmol, 1.7 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
product | Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 13 g, yield 92% | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
